US07138395B2
Preparation of (4S,7S,11aR)-7-benzoylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (2-hydroxy-5-oxo-tetrahydrofuran-3-yl)-amide (46):
A solution of (4S,7S,11aS)-7-benzoylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (2-ethoxy-5-oxo-tetrahydro-furan-3-yl)-amide, 45, (32 mg) in 10 mL of 1:1 acetonitrile/water is treated with 2 mL of trifluoroacetic acid. After stirring for 30 minutes the solution is concentrated in vacuo and the crude product purified by preparative reverse phase HPLC to afford 21 mg of the desired product as a white solid. 1H NMR (CD3OD) δ 7.92 (d, J=7.0 Hz, 2H), 7.54 (m, 3H), 5.75 (m, 1H), 5.63 (m, 1H), 5.42 (dd, J=8.1, 4.8 Hz, 1H), 5.01 (d, J=6.2 Hz, 1H), 4.72 (m, 1H0, 4.65 (d, J=4.0 Hz, 0.5H), 4.64 (d, J=4.0 Hz, 0.5 H), 4.31 (m, 1H), 3.18 (m, 1H), 2.68 (m, 2H), 2.45 (m, 3H), 2.26 (br d, J=13.9 Hz, 1H), 2.10 (m, 1H), 1.94 (m, 1H), 1.80 (br d, J=13.2 Hz, 1H), 1.61 (m, 2H); MS 442 (M+H)+.

reactant | (4S,7S,11aS)-7-benzoylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (2-ethoxy-5-oxo-tetrahydro-furan-3-yl)-amide | C(C)OC1OC(CC1NC(=O)[C@@H]1CCC[C@@H]2N1C([C@H](CC=CC2)NC(C2=CC=CC=C2)=O)=O)=O | C25H31N3O6
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile water | 10 mL | C(C)#N.O
product | (4S,7S,11aR)-7-benzoylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (2-hydroxy-5-oxo-tetrahydrofuran-3-yl)-amide | 21 mg | OC1OC(CC1NC(=O)[C@@H]1CCC[C@H]2N1C([C@H](CC=CC2)NC(C2=CC=CC=C2)=O)=O)=O | C23H27N3O6
